US05576424
Preparation of 7-carbethoxyamino-4-chloromethylcoumarin:
A suspension of ethyl 3-hydroxyphenylurethane (1.81 g, 0.01 mole), ethyl 4-chloroacetoacetate (1.81 mL, 0.011 mole) and 70% H2SO4 (50 mL) is stirred for 4 hours at room temperature. The clear solution is poured into 400 mL of ice-water, with constant stirring, to yield a yellowish precipitate. The solid is filtered, washed with water and dried. The product is recrystallized from methanol to give colorless needles (86%).

reactant | ethyl 3-hydroxyphenylurethane | 0.01 mole, 1.81 g | C(C)N(C(=O)OCC)C1=CC(=CC=C1)O | C11H15NO3
reactant | ethyl 4-chloroacetoacetate | 0.011 mole, 1.81 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 7-carbethoxyamino-4-chloromethylcoumarin | 86% | C(=O)(OCC)NC1=CC=C2C(=CC(OC2=C1)=O)CCl | C13H12ClNO4
